US06437194B2
To 70 ml autoclave, 20 g (45.4 mmoles) of nonylphenol ethylene-oxide adduct having an ethylene oxide addition mole number of 5.0 and 2.0 g of powdery 5%-ruthenium alumina were charged. The reaction system was substituted with nitrogen, successively with hydrogen, and heated to 100° C. Hydrogen pressure was respectively controlled to the pressure shown in Table 2. Hydrogenation reaction was carried out for the time and at the temperature shown in Table 2 while feeding hydrogen so as to maintain the hydrogen pressure constant. After the reaction, the catalyst was filtered at 90° C. under increased pressure to obtain nonylcyclohexanol ethylene oxide adduct having an ethylene oxide addition mole number of 5.0. Table 2 shows amounts of consumed hydrogen, residual nonylphenol ethylene oxide adduct and nonylcyclohexane.

reactant | nonylphenol ethylene-oxide | 45.4 mmoles, 20 g | C1CO1.C(CCCCCCCC)C1=C(C=CC=C1)O
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | hydrogen | [H][H] | H2
catalyst | ruthenium alumina | [Ru] | Ru
product | nonylcyclohexanol ethylene oxide | C1CO1.C(CCCCCCCC)C1(CCCCC1)O | InChI=1S/C15H30O.C2H4O/c1-2-3-4-5-6-7-9-12-15(16)13-10-8-11-14-15;1-2-3-1/h16H,2-14H2,1H3;1-2H2
